US07790747B2
To a solution of (3-{4-[(R)-3-(2-nitro-phenyl)-2-oxo-5-phenyl-imidazolidin-1-yl]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (180 mg, 0.334 mmol) in CH3OH (3 ml) was added Pd/C (20 mg, 50%). The mixture was hydrogenated under H2 (2 atm.) for 10 min. Filtration and concentration gave (3-{4-[(R)-3-(2-amino-phenyl)-2-oxo-5-phenyl-imidazolidin-1-yl]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (160 mg, 94%). Treatment with TFA (1 ml) and CH2Cl2 (1 ml) according to general procedure C gave (R)-3-[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-1-(2-amino-phenyl)-4-phenyl-imidazolidin-2-one (114 mg, 94%).

reactant | (3-{4-[(R)-3-(2-nitro-phenyl)-2-oxo-5-phenyl-imidazolidin-1-yl]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.334 mmol, 180 mg | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)N1C(N(C[C@H]1C1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C29H39N5O5
solvent | CH3OH | 3 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (3-{4-[(R)-3-(2-amino-phenyl)-2-oxo-5-phenyl-imidazolidin-1-yl]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 160 mg, 94% | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)N1C(N(C[C@H]1C1=CC=CC=C1)C1=C(C=CC=C1)N)=O)=O | C29H41N5O3
